Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Lasix
 
Attending: ___.
 
Chief Complaint:
ESRD, Hemodialysis Initiation
 
Major Surgical or Invasive Procedure:
Placement of a tunneled permanent dialysis catheter
Placement of a mid-line IV
 
History of Present Illness:
Patient seen and examined, agree with house officer admission 
note by Dr. ___ ___ with additions below. 

___ year old Male with ESRD who presents for initiation of 
hemodialysis. He has a history of type 2 diabetes and 
hypertension, which have led to his ESRD. Over the weeks prior 
to admission, he states he has been somewhat short of breath 
with exertion, worsening pedal edema. He also has noted 
depressed appetite and constipation.

Of note the patient is severely anxious of about needles and 
procedures, and requires anxiolytics for any IV access 
procedure.
 
Past Medical History:
Type 2 Diabetes mellitus c/b nephropathy and neuropathy for 
about ___ years  
Hypertension, not well controlled, also for about ___ years  
Hypercholesterolemia  
CKD with baseline creatinine 2.1 - 2.8  
Obstructive sleep apnea  
s/p right knee arthroscopy  

 
Social History:
___
Family History:
His mother has heart disease. He has ten  brothers or sisters 
without any heart problems. On his father's side, some relatives 
have diabetes.  

 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 
PHYSICAL EXAM:
VSS: 98.1, 158/72, 76, 18, 95%
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions

PHYSICAL EXAM ON DISCHARGE:
Vitals: 98.6 ___: Alert, oriented, no acute 
distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: slightly increased respiratory effort, rales and wheeze 
at right lung base, otherwise clear to auscultation
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, mild distension with fluid wave, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 2+ 
pitting edema ___ bilaterally
Neuro:  CN II-XII intact, strength ___ proximally and distally 
in extremities x4, sensation to light touch intact in 2 
dermatomes on each extremity 

PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT, mild distension, +BS, - CVAT
EXT: - CC, 2+ pitting edema
NEURO: CAOx3, Non-Focal
 
Pertinent Results:
===========================================
LAB RESULTS ON PRESENTATION

___ 05:50AM BLOOD WBC-5.9 RBC-2.33* Hgb-6.3* Hct-20.2* 
MCV-87 MCH-26.9* MCHC-31.0 RDW-15.6* Plt ___
___ 07:50PM BLOOD WBC-6.9 RBC-2.50* Hgb-6.6* Hct-22.0* 
MCV-88 MCH-26.5* MCHC-30.1* RDW-15.4 Plt ___
___ 02:53PM BLOOD WBC-5.9 RBC-2.63* Hgb-6.9* Hct-23.1* 
MCV-88 MCH-26.4* MCHC-30.0* RDW-15.8* Plt ___
___ 02:53PM BLOOD Neuts-68.4 Lymphs-10.9* Monos-4.7 
Eos-15.3* Baso-0.7
___ 05:50AM BLOOD ___ PTT-30.8 ___
___ 05:50AM BLOOD Glucose-120* UreaN-101* Creat-7.8* Na-140 
K-4.9 Cl-112* HCO3-23 AnGap-10
___ 07:50PM BLOOD Glucose-82 UreaN-102* Creat-7.7* Na-139 
K-6.2* Cl-111* HCO3-22 AnGap-12
___ 02:53PM BLOOD UreaN-103* Creat-7.8* Na-142 K-5.9* 
Cl-108
___ 05:50AM BLOOD Calcium-7.6* Phos-4.6* Mg-2.6
___ 07:50PM BLOOD Calcium-8.0* Phos-4.6* Mg-2.7*

==========================================================
STUDIES

CHEST (PA & LAT) Study Date of ___ 9:44 ___ 
IMPRESSION:  
As compared to the previous radiograph, the patient has 
developed mild 
pulmonary edema, as reflected by increased vascular diameters as 
well as mild peribronchial cuffing.  And atelectasis in the 
retrocardiac lung regions has slightly increased in extent. The 
known pleural and parenchymal changes on the right are constant, 
including a small loculated intrafissural pleural effusion. 
Moderate cardiomegaly persists.  No pneumothorax

Radiology ___ ___ US GUID FOR VAS. ACCESS Study Date of 
___ 12:54 ___ 
IMPRESSION:    
Successful placement of a right-sided single-lumen midline and a 
tunneled 
dialysis line via the right internal jugular venous approach. 
The tip of the catheter terminates in the right atrium and the 
tip of the PICC line 
terminates in the right axillary vein.  The catheter and PICC 
line are ready for use. 
RECOMMENDATION:  Right subclavian vein stenosis, which would 
create difficulty for future dialysis access or PICC line 
placements. 

Cardiovascular Report ECG Study Date of ___  8:42:24 ___ 
Sinus rhythm. Low limb lead voltage. Delayed R wave transition. 
T wave 
inversion in leads I and aVL with ST segment flattening and 
slight depression in leads V5-V6, similar to that recorded on 
___ without diagnostic interim change. 
 
PPD Placed: ___ 07:57
PPD Read: ___ 09:15
Read: 0mm induration
Interpretation: Negative PPD

============================================
Laboratory Results on Discharge:

___ 12:40PM BLOOD WBC-6.2 RBC-2.59* Hgb-6.8* Hct-22.0* 
MCV-85 MCH-26.5* MCHC-31.1 RDW-15.4 Plt ___
___ 12:40PM BLOOD Glucose-154* UreaN-71* Creat-6.4*# Na-140 
K-4.8 Cl-104 HCO3-27 AnGap-14
___ 12:40PM BLOOD Calcium-7.7* Phos-5.3* Mg-2.4
___ 03:45PM BLOOD calTIBC-273 Ferritn-94 TRF-210
___ 03:45PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-POSITIVE
___ 03:45PM BLOOD HCV Ab-NEGATIVE
 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION:

Mr. ___ is a ___ male with PMH of T2DM, HTN, 
hyperlipidemia, and CKD stage 5 who presented to the hospital in 
direct admission to initiate hemodialysis in the setting of 
volume overload and hyperkalemia. He was initiated on HD and 
discharged home to begin outpatient HD.

ACUTE CARE:

1. ESRD, Hyperkalemia As he had no access, his potassium was 
lowered with insulin and kayexelate until HD initiation. Volume 
overload resulted in shortness of breath and pulmonary edema on 
CXR. This was managed with extra doses of ethacrynic acid until 
HD was initiated. ___ placed a tunneled HD line for use until 
fistula matures. PPD was negative and HD initiation labs were 
sent. Hyperkalemia resolved, and volume overload with pulmonary 
edema and SOB had resolved on discharge.

CHRONIC CARE:

#. Type 2 Diabetes Uncontrolled with Complications: continued 
Glargine, ISS coverage, ___ Diet
#. Hyperlipidemia: Consider starting statin once HD has been 
initiated. Defer to outpatient providers
#. Benign Hypertension: continued Amlodipine, carvedilol
#. Obstructive Sleep Apnea: Not currently on CPAP

TRANSITIONS IN CARE:
-will followup with PCP and new HD providers. PPD was negative. 
-Will need Hep B immunizations. 
-will need to consider initiating statin therapy on discharge
-Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. Vitamin D 50,000 UNIT PO WEEKLY 
5. Ethacrynic Acid 75 mg PO BID 
6. Glargine 8 Units Breakfast
7. Sodium Polystyrene Sulfonate 0.5 tbspn PO PRN high potassium 
8. Ferrous Sulfate 325 mg PO BID 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. Ethacrynic Acid 75 mg PO BID 
5. Ferrous Sulfate 325 mg PO BID 
6. Glargine 8 Units Breakfast
7. Vitamin D 50,000 UNIT PO WEEKLY 
8. Sodium Polystyrene Sulfonate 0.5 tbspn PO PRN high potassium 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Stage 5 Chronic Kidney Disease
Initiation of Hemodialysis

Secondary:
Type 2 Diabetes Mellitus, controlled with complications
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care at ___ 
___. You presented to the hospital to 
initiate hemodialysis. While with us, we obtained a tunneled 
dialysis catheter to use while your fistula matures, and you 
received 3 dialysis sessions. You will begin regular outpatient 
dialysis starting this ___.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___